US08470820B2
Step 5: 1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-ylamine
A solution of (1-methyl-5-pyridin-2-yl-1H-pyrazole-3-yl)-carbamic acid tert-butyl ester (82 mg, 0.30 mmol) in dioxane (0.85 ml) was treated with 4M HCl in dioxane (0.85 ml) and the resulting suspension was stirred at ambient temperature overnight. The reaction mixture was extracted with ethyl acetate and the combined organic phases were washed with aqueous sodium bicarbonate solution and brine. The ethyl acetate phase was dried and the solvent was evaporated to yield the product as light brown viscous oil (51 mg, 97%) which was used without any further purification. MS: M=175.2 (M+H)+

reactant | (1-methyl-5-pyridin-2-yl-1H-pyrazole-3-yl)-carbamic acid tert-butyl ester | 0.30 mmol, 82 mg | C(C)(C)(C)OC(NC1=NN(C(=C1)C1=NC=CC=C1)C)=O | C14H18N4O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 0.85 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.85 ml | O1CCOCC1 | C4H8O2
product | 1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-ylamine | 51 mg, 97% | CN1N=C(C=C1C1=NC=CC=C1)N | C9H10N4
